US07816558B2
5-[(Hydroxyimino)methyl]-2-methoxybenzonitrile, 4 M hydrochloric acid and Oxon (registered trade name) were dissolved in a solution of DMF, followed by stirring at room temperature for 12 hours to obtain 3-cyano-N-hydroxy-4-methoxybenzenecaboximidoyl chloride. NMRC: 7.01 (1H, d), 8.03 (1H, dd), 8.07 (1H, d).

reactant | 5-[(Hydroxyimino)methyl]-2-methoxybenzonitrile | ON=CC=1C=CC(=C(C#N)C1)OC | C9H8N2O2
reactant | hydrochloric acid | 4 M | Cl | ClH
solvent | DMF | CN(C)C=O | C3H7NO
product | 3-cyano-N-hydroxy-4-methoxybenzenecaboximidoyl chloride | C(#N)C=1C=C(C=CC1OC)C(=NO)Cl | C9H7ClN2O2
